US04735952
A mixture of 4-chloro-1-methylpiperidine (110.1 g), 2-fluorothiophenol (117.3 g), and potassium carbonate (170.8 g) in N,N-dimethylformamide (1.0 l) was stirred at 90° C. for 2 hours and filtered. The filtrate was concentrated in vacuo to give an oily residue, which was diluted with brine and extracted three times with diethyl ether. The extracts were dried over magnesium sulfate, concentrated in vacuo, and distilled to give 4-[(2-fluorophenyl)thio]-1-methylpiperidine (111.1 g) as a yellow oil.

reactant | 4-chloro-1-methylpiperidine | 110.1 g | ClC1CCN(CC1)C | C6H12ClN
reactant | 2-fluorothiophenol | 117.3 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | potassium carbonate | 170.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.0 l | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-[(2-fluorophenyl)thio]-1-methylpiperidine | 111.1 g | FC1=C(C=CC=C1)SC1CCN(CC1)C | C12H16FNS
